US07705014B2
To 2-[4-(1,3-dioxolan-2-yl)phenyl]-5-methoxy-3-phenyl-1,6-naphthyridine (25 g, 66 mmol) in dioxane (66 mL) was added 4M HCl (66 mL). The reaction mixture was stirred overnight, poured carefully into saturated NaHCO3 (900 mL), and filtered to give 4-(5-oxo-3-phenyl-5,6-dihydro-1,6-naphthyridin-2-yl)benzaldehyde as a white solid. 1H NMR: (500 MHz, CDCl3) δ 11.58 (br s, 1H), 10.00 (s, 1H), 8.74 (s, 1H), 7.80 (d, 2H), 7.61 (d, 2H), 7.43 (d, 1H), 7.33-7.21 (m, 6H), 6.93 (d, 1H).

reactant | 2-[4-(1,3-dioxolan-2-yl)phenyl]-5-methoxy-3-phenyl-1,6-naphthyridine | 66 mmol, 25 g | O1C(OCC1)C1=CC=C(C=C1)C1=NC2=CC=NC(=C2C=C1C1=CC=CC=C1)OC | C24H20N2O3
reactant | HCl | 4M, 66 mL | Cl | ClH
reactant | NaHCO3 | 900 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 66 mL | O1CCOCC1 | C4H8O2
product | 4-(5-oxo-3-phenyl-5,6-dihydro-1,6-naphthyridin-2-yl)benzaldehyde | O=C1C=2C=C(C(=NC2C=CN1)C1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C21H14N2O2
